US04242510
EXAMPLE 9: 7-[2-(2-Oxo-1,3-dithiol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer)
2-(2-Oxo-1,3-dithiol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 0.2 g.) was allowed to react with 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (1.2 g.) in a similar manner to that of Example 1 and crystallized with diisoporpyl ether to give the captioned compound (0.15 g.), mp. 80° to 90° C. (dec.).

reactant | 2-(2-Oxo-1,3-dithiol-4-yl)-2-methoxyiminoacetic acid | 0.2 g | O=C1SC=C(S1)C(C(=O)O)=NOC | C6H5NO4S2
reactant | 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.2 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
product | 7-[2-(2-Oxo-1,3-dithiol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | O=C1SC=C(S1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOC | C16H13N5O6S5
